US07956070B2
Step 1: Ethyl 6-oxo-2-(pentafluoroethyl)-1,4,5,6-tetrahydropyridine-3-carboxylate
A suspension of acrylamide (4.11 g), ethyl 4,4,5,5,5-pentafluoro-3-oxopentanoate (16.5 g) and p-toluenesulphonic acid (0.120 g) in chlorobenzene (40 mL) was sonicated for 30 minutes then heated by microwave irradiation (150 W, 120° C.) for 3 h. The reaction mixture was concentrated in vacuo and subjected to flash column chromatography (eluent 1:3 ethyl acetate/isohexane) to yield a colourless solid (0.697 g).

reactant | acrylamide | 4.11 g | C(C=C)(=O)N | C3H5NO
reactant | ethyl 4,4,5,5,5-pentafluoro-3-oxopentanoate | 16.5 g | FC(C(CC(=O)OCC)=O)(C(F)(F)F)F | C7H7F5O3
reactant | p-toluenesulphonic acid | 0.120 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | chlorobenzene | 40 mL | ClC1=CC=CC=C1 | C6H5Cl
product | Ethyl 6-oxo-2-(pentafluoroethyl)-1,4,5,6-tetrahydropyridine-3-carboxylate | 0.697 g | O=C1CCC(=C(N1)C(C(F)(F)F)(F)F)C(=O)OCC | C10H10F5NO3
